US08012976B2
To a stirred mixture of benzaldehyde (4.125 g, 29.9 mmol) and anhydrous magnesium sulfate (36 g, 299 mmol) in anhydrous acetonitrile (200 mL) was added 4-amino-6-fluoroisobenzofuran-1(3H)-one (5 g, 29.9 mmol) at 0° C. After the addition, the mixture was stirred at room temperature for 6 days. The mixture was filtered and the cake was washed with ethyl acetate (50 mL×3). The filtrate was concentrated to give crude product. The crude product was washed with petroleum ether to give (E)-4-(benzylideneamino)-6-fluoroisobenzofuran-1(3H)-one (5 g, yield: 66%). 1H-NMR (400 MHz, CDCl3) δ (ppm): 5.40 (s, 2); 7.11-7.14 (dd, 1H), 7.44-7.46 (dd, 2H), 7.53-7.59 (m, 3H), 7.93-7.95 (m, 2H), 8.54 (s, 1H); LC-MS (ESI) m/z: 256 (M+1)+.

reactant | benzaldehyde | 29.9 mmol, 4.125 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | magnesium sulfate | 299 mmol, 36 g | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | 4-amino-6-fluoroisobenzofuran-1(3H)-one | 29.9 mmol, 5 g | NC1=C2COC(C2=CC(=C1)F)=O | C8H6FNO2
solvent | acetonitrile | 200 mL | C(C)#N | C2H3N
product | (E)-4-(benzylideneamino)-6-fluoroisobenzofuran-1(3H)-one | 5 g, yield: 66% | C(/C1=CC=CC=C1)=N\C1=C2COC(C2=CC(=C1)F)=O | C15H10FNO2
